US06740670B2
To a solution of N-benzyl-N-(2-phenylethyl)amine (351 mg) and diisopropyl-ethylamine (145 mg) in dimethylformamide (1.5 ml) was added 3-[[(methylsulfonyl)oxy]methyl]-4-phenylmethoxybenzaldehyde (355 mg). After stirring at room temperature for 3 hours, the reaction mixture was partially concentrated under reduced pressure and the residue was purified by flash chromatography column using petroleum ether:diethyl ether (1:3) as eluant. The pure fractions were combined and evaporated under reduced pressure to give 4-phenylmethoxy-3-[[N-phenylmethyl-N-(2-phenylethyl)amino]methyl]benzaldehyde (420 mg) as a gum. 1H NMR (CDCl3) δ9.89 (s, 1H, CHO); 5.20 (s, 2H); 3.88 (s, 2H); 3.85 (s, 2H); 2.92 (m, 4H, CH2CH2).

reactant | N-benzyl-N-(2-phenylethyl)amine | 351 mg | C(C1=CC=CC=C1)NCCC1=CC=CC=C1 | C15H17N
reactant | diisopropyl-ethylamine | 145 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-[[(methylsulfonyl)oxy]methyl]-4-phenylmethoxybenzaldehyde | 355 mg | CS(=O)(=O)OCC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C16H16O5S
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 4-phenylmethoxy-3-[[N-phenylmethyl-N-(2-phenylethyl)amino]methyl]benzaldehyde | 420 mg | C1(=CC=CC=C1)COC1=C(C=C(C=O)C=C1)CN(CCC1=CC=CC=C1)CC1=CC=CC=C1 | C30H29NO2
